US07557067B2
(1) Synthesis of 5-benzylthio-1-methylpyrazole-4-carbohydroxamic acid
In a suspension of 5-benzylthio-1-methylpyrazole-4-carboxylic acid (15.9 g, 64.0 mmol) in toluene (100 ml), thionyl chloride (11.4 g, 95.8 mmol) and N,N-dimethylformamide (0.1 g) were added, and refluxed for 4 hours. The residue obtained by distilling off the solvent was dissolved in tetrahydrofuran (40 ml), On the other hand, in a solution of hydroxyamine hydrochloride (13.3 g, 191 mmol) in water (40 ml), a solution of 85% potassium hydroxide (12.6 g, 191 mmol) in water (40 ml) was added at 5-15° C., and stirred at room temperature for 15 minutes. Then, the above-mentioned tetrahydrofuran solution was added dropwise at 3-15° C. After further stirring at 3° C. for 1.5 hour, the mixture was adjusted to pH 3-4 by adding 35% hydrochloric acid (20 ml) and extracted with ethyl acetate. The resulting ethyl acetate solution was washed with water, dried over anhydrous sodium suite, and the solvent was distilled off. The resulting residue was purified with silica gel column chromatography (developing solution: n-hexane/ethyl acetate=1/1) to obtain the aimed product (10.3 g). Resinous substance. Proton nuclear magnetic resonance chemical shift values δ (ppm) (in CDCl3) 3.42 (s, 3H), 3.95 (s, 2H), 6.93-7.01 (m, 2H), 7.20-7.28 (m, 3H), 8.04 (s, 1H), 9.76 (brs 1H).

reactant | 5-benzylthio-1-methylpyrazole-4-carboxylic acid | 64.0 mmol, 15.9 g | C(C1=CC=CC=C1)SC1=C(C=NN1C)C(=O)O | C12H12N2O2S
reactant | thionyl chloride | 95.8 mmol, 11.4 g | S(=O)(Cl)Cl | Cl2OS
reactant | hydroxyamine hydrochloride | 191 mmol, 13.3 g | Cl.ON
reactant | potassium hydroxide | 191 mmol, 12.6 g | [OH-].[K+]
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | 40 ml | O | H2O
solvent | water | 40 ml | O | H2O
catalyst | N,N-dimethylformamide | 0.1 g | CN(C=O)C | C3H7NO
product | 5-benzylthio-1-methylpyrazole-4-carbohydroxamic acid | 10.3 g | C(C1=CC=CC=C1)SC1=C(C=NN1C)C(=O)NO | C12H13N3O2S
